US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
12N Hydrochloric acid (10 ml) was added to ethyl 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (400 mg), and the mixture was stirred overnight while heating under reflux. After the reaction mixture was allowed to cool, solids deposited were collected by filtration and washed successively with water and ethanol to obtain the title compound (230 mg) as a colorless powder.

reactant | ethyl 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 400 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C(=C12)Cl)F)F)C)=O)C(=O)OCC)F)F | C19H13ClF4N2O3
solvent | Hydrochloric acid | 12N, 10 ml | Cl | ClH
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 230 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C(=C12)Cl)F)F)C)=O)C(=O)O)F)F | C17H9ClF4N2O3
